US04785010
2-(Phthalimido-methyl)-5-methyl-pyrrole
36.3 g (0.14 mol) of 6-phthalimido-2,5-hexanedione, 54 g (0.7 mol) of ammonium acetate and 1 g of ammonium chloride are stirred in 700 ml of acetic acid at 80° C. for 1 hour and the mixture is worked up as in Example 1.

reactant | 6-phthalimido-2,5-hexanedione | 0.14 mol, 36.3 g | C1(C=2C(C(N1CC(CCC(C)=O)=O)=O)=CC=CC2)=O | C14H13NO4
reactant | ammonium acetate | 0.7 mol, 54 g | C(C)(=O)[O-].[NH4+]
reactant | ammonium chloride | 1 g | [Cl-].[NH4+]
solvent | acetic acid | 700 ml | C(C)(=O)O | C2H4O2
product | 2-(Phthalimido-methyl)-5-methyl-pyrrole | C1(C=2C(C(N1CC=1NC(=CC1)C)=O)=CC=CC2)=O | C14H12N2O2
